US08536179B2
To a stirred suspension of CrCl2 (58 g, 472.8 mmol) in THF (1500 mL) was added a THF solution (500 mL) of 1,1-dichloro-2-propanone 10 g, 78.8 mmol) and cyclohexanecarbaldehyde (8.84 g, 78.8 mmol). The reaction mixture was heated at reflux for 2 h, and then quenched by the addition of 1.0 M HCl. The reaction mixture was filtered through a pad of Celite and concentrated in vacuo. The crude residue (10 g) was added to a solution of DMSO (150 mL) containing t-BuOK (7.5 g, 65.7 mmol) and cyanoacetamide (6.1 g, 72.3 mmol) and stirred at room temperature for 30 min. Additional t-BuOK (22.5 g, 197.1 mmol) was added and the reaction mixture was stirred under an atmosphere of oxygen for an additional 1 h. The contents were purged with argon, diluted with 4 volumes of H2O, and then 5 volumes of 4 N HCl, which were added slowly. The reaction mixture was filtered, washed with water and dried to give 4-cyclohexyl-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile (4.5 g, 32%). 1H NMR (400 MHz, DMSO-d6) δ ppm 6.25 (s, 1H), 2.61-2.65 (m, 1H), 2.22 (s, 3H), 1.66-1.79 (m, 4H), 1.24-1.46 (m, 6H).

reactant | 1,1-dichloro-2-propanone | 78.8 mmol, 10 g | ClC(C(C)=O)Cl | C3H4Cl2O
reactant | cyclohexanecarbaldehyde | 78.8 mmol, 8.84 g | C1(CCCCC1)C=O | C7H12O
reactant | t-BuOK | 65.7 mmol, 7.5 g | CC(C)(C)[O-].[K+]
reactant | cyanoacetamide | 72.3 mmol, 6.1 g | C(#N)CC(=O)N | C3H4N2O
reactant | t-BuOK | 197.1 mmol, 22.5 g | CC(C)(C)[O-].[K+]
solvent | THF | 1500 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-cyclohexyl-6-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 4.5 g, 32% | C1(CCCCC1)C1=C(C(NC(=C1)C)=O)C#N | C13H16N2O
